US07662975B2
To a solution of 4-methyl-2-oxo-2H-chromene-7-carbonitrile (670 mg, 3.6 mmol) in dry THF (30 mL) at −20° C. was added drop wise 1.0 M LiHMDS solution in THF (5.4 mL). After 30 minutes 2-fluoro-1-isocyanato-benzene (189 mg) was added into the reaction mixture and the reaction mixture was stirred for 1 hour. The reaction mixture was then quenched with saturated aqueous ammonium chloride (25 mL) and extracted with ethyl acetate (50 mL). The organic layer was separated and dried over sodium sulfate, then concentrated and purified on silica gel eluted with 30%-100% ethyl acetate in hexanes to yield 2-(7-cyano-2-oxo-2H-chromen-4-yl)-N-(2-fluoro-phenyl)-acetamide as a solid.

reactant | 4-methyl-2-oxo-2H-chromene-7-carbonitrile | 3.6 mmol, 670 mg | CC1=CC(OC2=CC(=CC=C12)C#N)=O | C11H7NO2
reactant | LiHMDS | 1.0 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-fluoro-1-isocyanato-benzene | 189 mg | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5.4 mL | C1CCOC1 | C4H8O
product | 2-(7-cyano-2-oxo-2H-chromen-4-yl)-N-(2-fluoro-phenyl)-acetamide | C(#N)C1=CC=C2C(=CC(OC2=C1)=O)CC(=O)NC1=C(C=CC=C1)F | C18H11FN2O3
